US04464371
(2R,4R) --3--(S--Benzoyl--3--mercaptopropionyl)--2--(2--hydroxyphenyl)--4--thiazolidinecarbohydroxamic acid
3.1 g of N--methylmorpholine is added to 180 ml of dry tetrahydrofuran solution of 12.5 g of (2R,4R)--3--(S--benzoyl--3--mercaptopropionyl) --2--(2--hydroxyphenyl)--4--thiazolidine--carboxylic acid. To the reaction mixture, 4.1 g of isobutyl chlorocarbonate is added dropwise while stirring under ice-cooling and further stirred for 30 minutes at the same temperature. To this suspension, 120 ml of methanol solution containing 6.3 g of hydroxylamine hydrochloride and 3.6 g of sodium hydroxide is added dropwise, and stirred for 2 hours by gradually restoring the room temperature. The solvent is removed in vacuo, and N hydrochloric acid is added to the resulting residue. Separated oil is extracted with ethyl acetate, and the organic layer is washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is removed in vacuo and the resulting oily residue is purified by silica gel coulumn chromatography to give 6.0 g of the titled compound.

reactant | N--methylmorpholine | 3.1 g | CN1CCOCC1 | C5H11NO
reactant | (2R,4R)--3--(S--benzoyl--3--mercaptopropionyl) --2--(2--hydroxyphenyl)--4--thiazolidine--carboxylic acid | 12.5 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C20H19NO5S2
reactant | isobutyl chlorocarbonate | 4.1 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | hydroxylamine hydrochloride | 6.3 g | Cl.NO
reactant | sodium hydroxide | 3.6 g | [OH-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | (2R,4R) --3--(S--Benzoyl--3--mercaptopropionyl)--2--(2--hydroxyphenyl)--4--thiazolidinecarbohydroxamic acid | 6.0 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)NO)C1=C(C=CC=C1)O | C20H20N2O5S2
